*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/4.70e-02[uF]/25[V]
* Murata P/N :GCH155R71E473KE01
* Property : C = 4.70e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCH155R71E473KE01 Port1 Port2
C01 Port1 N01 4.78e-08
R01 Port1 N01 1.06e+09
L02 N01 N02 1.80e-10
R03 N02 N03 2.29e-02
C04 N03 N04 5.62e-06
R04 N03 N04 7.73e+02
C05 N04 N05 1.04e-05
R05 N04 N05 6.43e+01
C06 N05 N06 6.68e-06
R06 N05 N06 2.08e+01
C07 N06 N07 5.60e-06
R07 N06 N07 2.56e+00
C08 N07 N08 4.97e-06
R08 N07 N08 3.06e-01
C09 N08 N09 3.90e-06
R09 N08 N09 6.11e-02
C10 N09 N10 3.76e-06
R10 N09 N10 9.85e-03
L11 N10 N11 1.55e-11
R11 N10 N11 1.19e-01
L12 N11 N12 7.11e-11
R12 N11 N12 9.19e-02
C13 N12 N13 8.47e-07
L13 N12 N13 5.08e-12
R13 N12 N13 7.91e-03
C14 N13 N14 5.60e-08
L14 N13 N14 3.57e-11
R14 N13 N14 3.22e-02
C15 N14 Port2 5.58e-12
L15 N14 Port2 5.53e-11
R15 N14 Port2 1.20e+01
.ENDS GCH155R71E473KE01
